US07220759B2
(2R,4S)-4-Methylpyrrolidine-2-carboxylic acid described in J. Chem. Soc. C, pp. 514–522 (1971) is reacted with di-tert-butyl dicarbonate to give (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylic acid. (2R,4S)-1-tert-Butoxycarbonyl-4-methylpyrrolidine-2-carboxylic acid is reacted with methyl iodide in the presence of potassium carbonate in acetonitrile solvent to give methyl (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylate. Methyl (2R,4S)-1-tert-butoxycarbonyl-4-methylpyrrolidine-2-carboxylate is reduced with lithium borohydride to give (2R,4S)-1-tert-butoxycarbonyl-2-hydroxymethyl-4-methylpyrrolidine. (2R,4S)-1-tert-Butoxycarbonyl-2-hydroxymethyl-4-methylpyrrolidine is reacted with 4N hydrogen chloride-dioxane to give (2R,4S)-2-hydroxymethyl-4-methylpyrrolidine hydrochloride. (2R,4S)-2-Hydroxymethyl-4-methylpyrrolidine hydrochloride is reacted with acrylonitrile to give 3-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]propionitrile. In the same manner as in Example 1b (e) and using 3-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-(2-[(2R,4S)-2-hydroxymethyl-4-methylpyrrolidin-1-yl]ethyl)-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | (2R,4S)-1-tert-Butoxycarbonyl-2-hydroxymethyl-4-methylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)C)CO | C11H21NO3
reactant | hydrogen chloride dioxane | 4N | Cl.O1CCOCC1
product | (2R,4S)-2-hydroxymethyl-4-methylpyrrolidine hydrochloride | Cl.OC[C@@H]1NC[C@H](C1)C | InChI=1S/C6H13NO.ClH/c1-5-2-6(4-8)7-3-5;/h5-8H,2-4H2,1H3;1H/t5-,6+;/m0./s1
